US04160099
A mixture of 3.00 g (0.02 mol) ethyl nicotinate and 3.50 g (0.02 mol) chloromethyl benzoate was heated at 70° under nitrogen for 10 hrs. Trituration in anhydrous ether and recrystallization from ethanol-ether gave 2.18 g (0.007 mol), 35%, 1-benzoyloxymethyl-3-carboethoxypyridinium chloride, mp 138°-141°; ir (KBr) 1730 cm-1 ; pmr (CDCl3) δ 1.43 (t, 3H), 4.47 (q, 2H), 7.7-7.3 (m, 5H), 8.2-7.95 (m, 2H), 9.17-8.50 (m, 4), 10.0 (bs, 1H) and 10.2 (bd, 1H) ppm.

reactant | ethyl nicotinate | 0.02 mol, 3.00 g | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | chloromethyl benzoate | 0.02 mol, 3.50 g | C(C1=CC=CC=C1)(=O)OCCl | C8H7ClO2
product | 1-benzoyloxymethyl-3-carboethoxypyridinium chloride | [Cl-].C(C1=CC=CC=C1)(=O)OC[N+]1=CC(=CC=C1)C(=O)OCC | InChI=1S/C16H16NO4.ClH/c1-2-20-16(19)14-9-6-10-17(11-14)12-21-15(18)13-7-4-3-5-8-13;/h3-11H,2,12H2,1H3;1H/q+1;/p-1
